US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(3-fluoro-benzoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexa hydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (25 mg) was dissolved in 1:1 EtOAc and saturated aqueous NaHCO3 and 3-fluorobenzoyl chloride (3 eq.) were added. After stirring at room temperature for 1 hour, the layers were separated and the organic layer was dried over Na2SO4 and evaporated. The residue was purified by over silica (hexanes to 8:2 hexanes-EtOAc to 6:4 hexanes-EtOAc to 6:4 hexanes-EtOAc+2% MeOH to DCM+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound (15 mg). LCMS (m/z): 861.

reactant | (S)-2-({(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexa hydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 25 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O
reactant | 3-fluorobenzoyl chloride | 3 eq. | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(3-fluoro-benzoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 15 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(C3=CC(=CC=C3)F)=O)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C48H40Cl2FN3O7
